US06878714B2
To a mixture of 2-chloronicotinic acid (6.3 g) and 4-isopropylaniline (5.26 ml) and DIEA (10 ml) in CH2Cl2 (200 ml) was added EDC (10 g) and HOBt (5.4 g). The reaction was stirred at RT overnight and washed with 2 N NaOH (100 ml), H2O (250 ml) and brine (100 ml). The organic layer was dried over Na2SO4 and evaporated to give (2-chloro-3-pyridyl)-N-(4-isopropylphenyl)-carboxamide.

reactant | 2-chloronicotinic acid | 6.3 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-isopropylaniline | 5.26 ml | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | DIEA | 10 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 5.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | EDC | 10 g
product | (2-chloro-3-pyridyl)-N-(4-isopropylphenyl)-carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)C(C)C | C15H15ClN2O
